US07101892B2
1-(4-Benzenesulfonyl-4-methylpentyl)-3-benzyloxypiperidine
The title compound was prepared from 1-(4-benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine and benzyl bromide.

reactant | 1-(4-benzenesulfonyl-4-methylpentyl)-3-hydroxypiperidine | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)O)(C)C | C17H27NO3S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-benzyloxypiperidine | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)OCC1=CC=CC=C1)(C)C | C24H33NO3S
